
*INA169
*****************************************************************************
* (C) Copyright 2011 Texas Instruments Incorporated. All rights reserved.       
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Analog eLab Design Center, Texas Instruments Inc.
* Part: INA169
* Date: 15JUL2011
* Model Type: ALL IN ONE
* Simulator: PSPICE
* Simulator Version: 16.0.0.p001
* EVM Order Number: N/A
* EVM Users Guide: N/A
* Datasheet: SBOS181D – DECEMBER 2000 – REVISED NOVEMBER 2005
*
* Model Version: 1.0
*
*****************************************************************************
* 
* Updates:
*
* Version 1.0 : 
* Release to Web
*
*****************************************************************************
* OPERATING NOTES
*
* MODEL TEMPERATURE RANGE IS -55 C TO +150 C, NOT ALL PARAMETERS ACCURATELY TRACK 
* THOSE OF AN ACTUAL INA169 OVER THE FULL TEMPERATURE RANGE BUT ARE AS CLOSE AS PRACTICAL
*
* BEGIN MODEL INA169
*
* OPERATING NOTES
*
* THE INTERNAL OFFSET SOURCE, V71 IS SET
* AT 1 MILLIVOLT SO THE OUTPUT STAGE IS
* ENOUGH ON WITH ZERO SIGNAL TO GIVE THE
* PROPER BANDWIDTH IN AN AC ANALYSIS WITH
* NO INPUT SIGNAL PRESENT. THIS WILL GIVE
* SLIGHTLY LARGER THAN TYPICAL OUTPUT
* ERRORS. FOR TYPICAL OUTPUT ERRORS CHANGE
* V71 TO 0.35 MILLIVOLT.
*
* MODEL FEATURES
* THIS MODEL FEATURES INPUT RANGE, OUTPUT
* SWING, OUTPUT COMPLIANCE, BANDWIDTH,
* GAIN VS RL, CMRR VS FREQ, PSRR VS FREQ,
* SETTLING TIME, QUIESCENT CURRENT AND
* QUIESCENT CURRENT VERSUS SUPPLY VOLTAGE,
* OUTPUT CURRENT DRAWN THROUGH THE SUPPLY,
* OUTPUT IMPEDANCE, INPUT OFFSET, INPUT
* BIAS CURRENT, AND NOISE.
*
* PINOUT ORDER OUT GND VIN+ VIN- V+
* PINOUT ORDER  1   2    3    4   5
*
.SUBCKT INA169 1 2 3 4 5
V71 11 9 1E-3
Q1 6 7 8 QPI
Q2 7 7 8 QPI
Q3 7 7 9 QPI
Q4 10 7 9 QPI
R1 8 3 1E3
R2 11 4 1E3
Q5 12 12 5 QPI
Q6 13 12 5 QPI
Q7 6 14 15 QI
Q8 5 6 14 QI
Q9 13 16 15 QI
Q10 5 10 16 QI
Q11 10 17 15 QI
Q12 8 13 18 QI
Q13 18 18 13 QI
I1 14 15 5E-6
I2 7 15 5E-6
I3 16 15 5E-6
R3 18 1 500
I4 12 15 20E-6
R5 19 13 8E3
C1 10 19 1.5E-12
C6 15 1 5E-12
C7 1 5 0.5E-12
E2 20 14 5 0 0.15E-6
E3 17 20 3 0 -2.5E-6
D1 15 8 DD
D2 15 11 DD
D3 8 21 DD
D4 11 21 DD
D5 5 21 DD
D6 15 5 DD
D7 1 21 DD
D8 15 1 DD
R10 15 21 1E9
R11 20 17 1E9
R12 14 20 1E9
L1 15 2 1N
R13 15 2 10
C8 15 3 1E-12
C9 15 4 1E-12
I18 0 22 1E-3
D16 22 0 DD
V74 23 22 -0.658
R15 0 23 10E3
G3 5 15 23 0 -65E-6
I19 15 5 5E-6
.MODEL DD D IS=3.0E-14 BV=90 RS=10
.MODEL QI NPN
+IS=1E-15 BF=200 BR=0.1 NF=1 NR=1 EG=1.2056 ISE=1E-17
+NE=1.5 ISC=1E-17 NC=1.5 VAF=125 VAR=15 IKF=6E-3 RB=1.2E3
+RBM=65 RE=5 IKR=6E-3 IRB=60E-6 RC=750 CJE=0.5E-12 VJE=0.77
+MJE=0.3 CJC=0.6E-12 VJC=0.64 MJC=0.425 CJS=0.05E-12 VJS=0.58
+MJS=0.5  FC=0 XCJC=1 TF=300E-12 TR=1E-6 XTF=1
+VTF=0 ITF=10E-3 PTF=5 XTI=2.3
+ XTB=1.5 KF=0.16E-15 AF=1
.MODEL QPI PNP
+IS=1E-15 BF=200 BR=0.1 NF=1 NR=1 EG=1.2056 ISE=1E-17
+NE=1.5 ISC=1E-17 NC=1.5 VAF=125 VAR=15 IKF=6E-3 RB=1.2E3
+RBM=65 RE=5 IKR=6E-3 IRB=60E-6 RC=750 CJE=0.5E-12 VJE=0.77
+MJE=0.3 CJC=0.6E-12 VJC=0.64 MJC=0.425 CJS=0.05E-12 VJS=0.58
+MJS=0.5  FC=0 XCJC=1 TF=50E-9 TR=1E-6 XTF=1
+VTF=0 ITF=10E-3 PTF=5 XTI=2.3
+ XTB=1.5 KF=0.16E-15 AF=1
.ENDS
* END MODEL INA169